* RF LNA - Common Source with Inductive Degeneration
.lib "$PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice" tt

.include "$PDK_ROOT/sky130A/libs.tech/ngspice/sky130_fd_pr__model__inductors.model.spice"

.options temp=27
.param F0=5000000000.0
.csparam f0=5000000000.0
.param VDD=1.8
.param VG=0.9
.param LG=5e-09
.param LS=1e-09
.param LD=5e-09

VDD vdd 0 DC {VDD}
VBIAS vbias 0 DC {VG}

VIN       src 0 AC 1 DC 0
Rsource   src in 50
XINCAP in gate_in sky130_fd_pr__cap_mim_m3_2 w=10 l=10 mf=1
XLGATE_l gate_in gate LGATE_l_ct 0 sky130_fd_pr__ind_03_90
RBIAS gate vbias 1MEG
XLSRC_r source 0 0 sky130_fd_pr__res_xhigh_po_0p35
XLSRC_l source 0 LSRC_l_ct 0 sky130_fd_pr__ind_05_125
XLSRC_c source 0 sky130_fd_pr__cap_mim_m3_2 w=6 l=6 mf=1
xn1 drain gate source 0 sky130_fd_pr__rf_nfet_01v8_lvt_bM04W3p00L0p15
XLLOAD_r vdd drain 0 sky130_fd_pr__res_high_po_2p85
XLLOAD_l vdd drain LLOAD_l_ct 0 sky130_fd_pr__ind_05_125
XLLOAD_c vdd drain sky130_fd_pr__cap_mim_m3_2 w=4 l=4 mf=1
XOUTCAP drain out sky130_fd_pr__cap_mim_m3_2 w=10 l=10 mf=1
RLOAD out 0 50

.control
set sqrnoise
op
let idd = -i(VDD)
let pdc = v(vdd) * idd
echo idd = "$&idd"
echo pdc = "$&pdc"
show all
ac dec 200 100MEG 10G

setplot ac1
let gain_db_vector = db(v(out)/v(in))
meas ac gain_db       find    gain_db_vector                at=5000000000.0
let gain_3db = gain_db - 3
let f_3db_low = 100MEG
let f_3db_high = 10G
meas ac f_3db_low    when    gain_db_vector=gain_3db      rise=1
meas ac f_3db_high   when    gain_db_vector=gain_3db      fall=1
noise v(out) VIN dec 200 $&f_3db_low $&f_3db_high

setplot ac1
let vin_re_vector = real(v(in))
meas ac vin_re       find    vin_re_vector                     at=5000000000.0
let vin_im_vector = imag(v(in))
meas ac vin_im       find    vin_im_vector                     at=5000000000.0
let iin_re_vector = real(i(VIN))
meas ac iin_re       find    iin_re_vector                  at=5000000000.0
let iin_im_vector = imag(i(VIN))
meas ac iin_im       find    iin_im_vector                    at=5000000000.0
let vout_re_vector = real(v(out))
meas ac vout_re      find    vout_re_vector                    at=5000000000.0
let vout_im_vector = imag(v(out))
meas ac vout_im      find    vout_im_vector                    at=5000000000.0
let vin_mag_vector = mag(v(in))
meas ac vin_mag      find    vin_mag_vector                    at=5000000000.0
let iin_mag_vector = mag(i(VIN))
meas ac iin_mag      find    iin_mag_vector                    at=5000000000.0
let vout_mag_vector = mag(v(out))
meas ac vout_mag     find    vout_mag_vector                   at=5000000000.0
let zin_re_vector = real(v(in)/(-i(VIN)))
meas ac zin_re       find    zin_re_vector                     at=5000000000.0
let zin_im_vector = imag(v(in)/(-i(VIN)))
meas ac zin_im       find    zin_im_vector                     at=5000000000.0
setplot noise2
print inoise_total
print onoise_total
.endc
.end
